US04101667
An amount of 6.0g potassium hydroxide was dissolved in 20ml of 80% ethanol and to the solution was added 1g of 2-methoxy-9-cyano-10,11-dihydrodibenzo[b,f]thiepin and the resulting mixture was refluxed for 26 hours. The mixture was freed of the solvent under reduced pressure to obtain the residue, which was dissolved in water and extracted with ethyl acetate. The aqueous layer was acidified with conc. hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate and freed of the solvent to give 743 mg (69%) of 2-methoxy-9-carboxy-10,11-dihydrodibenzo[b,f]thiepin as pale reddish needles having a melting point of 185°-186° C.

reactant | potassium hydroxide | 6.0g | [OH-].[K+]
reactant | 2-methoxy-9-cyano-10,11-dihydrodibenzo[b,f]thiepin | COC1=CC2=C(SC3=C(CC2)C(=CC=C3)C#N)C=C1 | C16H13NOS
reactant | water | O | H2O
solvent | ethanol | 20ml | C(C)O | C2H6O
product | 2-methoxy-9-carboxy-10,11-dihydrodibenzo[b,f]thiepin | 743 mg, 69% | COC1=CC2=C(SC3=C(CC2)C(=CC=C3)C(=O)O)C=C1 | C16H14O3S
